US07087628B2
1-(3,3-Dimethyl-2-oxo-pentanoyl)-pyrrolidine-2-carboxylic acid N′-pyridine-2-yl-hydrazide
A mixture of (2S)-1-(1,2-dioxo-3,3-dimethylpentyl)-2-pyrrolidine-carboxylic acid (482 mg, 2 mmol), prepared from L-proline methyl ester according to the procedure described in WO 96/40633, 2-hydrazinopyridine (364 mg, 2 mmol), PyBrop (932 mg, 2 mmol), DMAP (4-dimethyaminopyridine, 122 mg) and DIEA (4 mL) in THF (dry, 50 mL) was stirred at room temperature for 24 h. Water and ethyl acetate were added. The organic phase was washed with ammonium chloride solution, followed by brine, and dried with MgSO4. Column chromatography (silica gel, ethyl acetate:methanol=10:0.5) gave a colorless oil; 490 mg (74%); MS (m/z) 333 (M+1); 1H NMR (d6-DMSO) δ0.85 (t, J=8 Hz, 3 H), 1.21 (s, 3 H), 1.23 (s, 3 H), 1.7 (m, 2 H), 1.90 (m, 1 H), 2.10 (m, 2 H), 2.35 (m, 1 H), 3.49 (t, J=8 Hz, 2 H), 4.62 (m, 1 H), 6.76 (m, 2 H), 7.51 (t, J=6 Hz, 1 H), 8.14 (d, J=6 Hz, 1 H).

reactant | (2S)-1-(1,2-dioxo-3,3-dimethylpentyl)-2-pyrrolidine-carboxylic acid | 2 mmol, 482 mg | O=C(C(C(CC)(C)C)=O)N1[C@@H](CCC1)C(=O)O | C12H19NO4
reactant | L-proline methyl ester | COC([C@H]1NCCC1)=O | C6H11NO2
reactant | 2-hydrazinopyridine | 2 mmol, 364 mg | N(N)C1=NC=CC=C1 | C5H7N3
reactant | PyBrop | 2 mmol, 932 mg | C1CCN(C1)[P+](N2CCCC2)(N3CCCC3)Br.F[P-](F)(F)(F)(F)F
reactant | DIEA | 4 mL | CCN(C(C)C)C(C)C | C8H19N
catalyst | DMAP | 122 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | Water | O | H2O
product | 1-(3,3-Dimethyl-2-oxo-pentanoyl)-pyrrolidine-2-carboxylic acid N′-pyridine-2-yl-hydrazide | N1=C(C=CC=C1)NNC(=O)C1N(CCC1)C(C(C(CC)(C)C)=O)=O | C17H24N4O3
